US07626042B2
(1) 2-{N-[N-(tert-Butoxycarbonyl)-L-leucyl]-L-phenylalanyl}oxy-5-chloro-N-[3,5-bis(trifluoromethyl)phenyl]benzamide.
Using 5-chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-benzamide(compound of Example 1(1)) and N-[N-(tert-butoxycarbonyl)-L-leucyl]-L-phenylalanine as the raw materials, the same operation as the Example 24 gave the title compound.

reactant | 5-chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-benzamide | ClC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H8ClF6NO2
reactant | N-[N-(tert-butoxycarbonyl)-L-leucyl]-L-phenylalanine | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C20H30N2O5
product | 2-{N-[N-(tert-Butoxycarbonyl)-L-leucyl]-L-phenylalanyl}oxy-5-chloro-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 38.5% | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)Cl | C35H36ClF6N3O6
